US08445501B2
1-(4-Amino-piperidin-1-yl)-2-methoxy-ethanone
Starting from 4-amino-piperidine-4-carboxylic acid tert-butyl ester and methoxy-acetyl chloride the title compound is obtained as slightly brown oil.

reactant | 4-amino-piperidine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1(CCNCC1)N | C10H20N2O2
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 1-(4-Amino-piperidin-1-yl)-2-methoxy-ethanone | NC1CCN(CC1)C(COC)=O | C8H16N2O2
